US04818819
Diethyl N-(4-iodobenzoyl)-L-glutamate is prepared from 4-iodobenzoyl chloride and diethyl L-glutamate in 56% yield by the same method. m.p. 105°-106° C.; NMR (CDCl3, 300 MHz) delta 1.26 (t, 3H, J=7.2 Hz), 1.33 (t, 3H, J=7.2 Hz), 2.11-2.60 (m, 4H), 4.14 (q, 2H, J=7.2 Hz), 4.78 (m, 1H), 7.15 (d, 1H, J=7.2 Hz), 7.58 (d, 2H, J=8.4 Hz), 7.83 (d, 2H, J=8.4 Hz)

reactant | 4-iodobenzoyl chloride | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | diethyl L-glutamate | N[C@@H](CCC(=O)OCC)C(=O)OCC | C9H17NO4
product | Diethyl N-(4-iodobenzoyl)-L-glutamate | 56% yield | IC1=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1 | C16H20INO5
